US06172057B2
4-(4-methoxy-benzenesulfonyl)-1-(2-phenyl-ethyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-methoxy-benzenesulfonyl)-1-(2-phenyl-ethyl)-piperidine-4-carboxylic acid ethyl ester (3.0 g, 6.9 mmol) dissolved in THF:methanol 3:1 and 10 N NaOH (40 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 2.0 g (72%); off white powder; mp 208° C.; MS: 404.5 (M+H)+.

reactant | 4-(4-methoxy-benzenesulfonyl)-1-(2-phenyl-ethyl)-piperidine-4-carboxylic acid ethyl ester | 6.9 mmol, 3.0 g | C(C)OC(=O)C1(CCN(CC1)CCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C23H29NO5S
solvent | THF methanol | C1CCOC1.CO
solvent | NaOH | 10 N, 40 ml | [OH-].[Na+]
product | 4-(4-methoxy-benzenesulfonyl)-1-(2-phenyl-ethyl)-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CCC1=CC=CC=C1)C(=O)O | C21H25NO5S
